US07968587B2
2-Bromomethyl-6-fluoro-pyridine
Add NBS (35.6 g, 0.20 mole) to a solution of 6-fluoro-2-methylpyridine (20 mL, 0.19 mole) in EtOAc (400 mL) at room temperature. When the temperature reaches 45° C., add AIBN (400 mg, 2.4 mmol). Heat the mixture at 65° C. for 6 h, then cool to room temperature and add hexane (1 L). Remove the white precipitate by filtration and wash the solid with hexane/EtOAc (1:1). Wash the filtrate with small amounts of aqueous Na2S2O3, NaHCO3, and brine. Dry the organics (Na2SO4), filter, then remove most of the solvent under vacuum at room temperature. Transfer the remaining solution to a distillation set-up. Remove the remaining solvent by distilling at atmospheric pressure, followed by the unreacted starting material at 80 mm (bp ca 70° C.; 11.2 g) and then the title product at 1 mm (bp ca 75° C.; 12.1 g, 32%). NMR (300 MHz; CDCl3): 7.82 (1H; dd); 7.35 (1H; dd); 6.90 (1H; dd); 4.50 (2H; s).

reactant | NBS | 0.20 mole, 35.6 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 6-fluoro-2-methylpyridine | 0.19 mole, 20 mL | FC1=CC=CC(=N1)C | C6H6FN
reactant | AIBN | 2.4 mmol, 400 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | hexane | 1 L | CCCCCC | C6H14
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
product | 2-Bromomethyl-6-fluoro-pyridine | BrCC1=NC(=CC=C1)F | C6H5BrFN
